US04363762
A mixture of 311 mg (1 mmol) of ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 66 mg of potassium cyanide and 10 ml of absolute methanol is heated to boiling under reflux for 6 hours. The mixture is concentrated, a small amount of water is added, the mixture is extracted three times with 10 ml of chloroform each time, dried over magnesium sulphate, evaporated and recrystallised from ethyl acetate/hexane. There is obtained methyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 165°-167° C.

reactant | ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 1 mmol, 311 mg | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O3
reactant | potassium cyanide | 66 mg | [C-]#N.[K+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OC)CCC2 | C16H15N3O3
